US05942617
Four milliliters of acetonitrile and 0.59 ml (2.7 equivalents) of benzyl bromide were added to 0.755 g (1.84 mmols) of triacetylguanosine, and the mixture was reacted at 50° C. for 16 hours. Subsequently, 2.5 ml (16.1 equivalents) of conc. hydrochloric acid were added thereto. The reaction was conducted at 50° C. for 50 minutes, and the temperature was then returned to room temperature. Then, the solid was precipitated. Fifteen milliliters of methanol were added thereto, and the slurry was stirred for 1 hour, and then filtered. The crystals were washed twice with 5 ml of methanol, and dried at 50° C. under reduced pressure for 2 hours to give 0.496 g of 7-benzylguanine crystals in a yield of 85.8%.

reactant | benzyl bromide | 0.59 ml, 2.7 equivalents | C(C1=CC=CC=C1)Br | C7H7Br
reactant | triacetylguanosine | 1.84 mmols, 0.755 g | C(C)(=O)[C@@]1([C@]([C@@](O[C@@H]1CO)(N1C=NC=2C(=O)NC(N)=NC12)C(C)=O)(O)C(C)=O)O | C16H19N5O8
reactant | hydrochloric acid | 2.5 ml, 16.1 equivalents | Cl | ClH
solvent | acetonitrile | Four milliliters | C(C)#N | C2H3N
product | 7-benzylguanine | 0.496 g, yield of 85.8% | C(C1=CC=CC=C1)N1C=NC=2N=C(NC(C12)=O)N | C12H11N5O
